US04382090
A reaction mixture was prepared from 1.16 g of 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine, 0.45 g of sodium dicyanamide, 4.8 ml 1N aqueous hydrochloric acid and 8 ml of n-butanol. The reaction mixture was heated to reflux temperature for about 16 hours and then was filtered. Evaporation of the filtrate to dryness yielded a residue which was purified by chromatography over silica using a 98:2 ethyl acetate:methanol solvent mixture as the eluant. Fractions shown by tlc to contain the desired product were combined and the solvent evaporated therefrom. N-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N'-cyanoguanidine thus obtained was a glass.

reactant | 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine | 1.16 g | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
reactant | sodium dicyanamide | 0.45 g | [N-](C#N)C#N.[Na+]
reactant | hydrochloric acid | 1N, 4.8 ml | Cl | ClH
solvent | n-butanol | 8 ml | C(CCC)O | C4H10O
product | N-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethyl-N'-cyanoguanidine | CN(C)CC=1SC=C(N1)CSCCNC(=N)NC#N | C11H18N6S2
